US07642264B2
2-(3-Bromo-phenyl)-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine (example A.45) (1.50 g, 5.42 mmol) and commercially available 3-bromo-benzeneboronic acid (1.31 g, 6.52 mmol) according to the general procedure IVb. Obtained as a white solid (1.17 g, 54%). MS (EI) 395.9, 397.9 [(M)+]; mp 111° C.

reactant | 2-chloro-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine | 5.42 mmol, 1.50 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C11H5ClF4N2
reactant | 3-bromo-benzeneboronic acid | 6.52 mmol, 1.31 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C17H9BrF4N2
